US06281364B1
1883 g (9.52 mol) of 0-acetyl-L-homoserine hydrochloride are added to a solution of 1600 g (19.04 mol) of sodium hydrogen carbonate in 9.3 liters of water, and the mixture is cooled to 5° C. 1823 g (10.47 mol) of benzyl chloroformate are then added and the pH is maintained at 7.5 by addition of 20% sodium carbonate solution. The mixture is stirred for 2 hours at 15° C. and then extracted using 20 liters of methyl isobutyl ketone. The aqueous phase is adjusted to pH=2.0 using concentrated hydrochloric acid and extracted twice using a total of 25 liters of methyl isobutyl ketone. The combined organic phases are washed with 3.5 liters of water and concentrated in vacuo. The residue is taken up in 19.5 liters of methyl isobutyl ketone; 856 g (8.47 mol) of triethylamine are added and the mixture is cooled to 0C. 1042 g (8.47 mol) of pivaloyl chloride are then added and stirring is carried out for 20 minutes. After the addition of 1000 g (8.47 mol) of p-aminobenzonitrile, stirring is carried out for 36 hours at room temperature. 10 liters of water are then added and the pH is adjusted to 2.0 using concentrated hydrochloric acid. The organic phase is separated off; 10 liters of water are added and the pH is adjusted to 11 using 50% sodium hydroxide solution. After washing with 3 liters of water, the organic phase is concentrated in vacuo to about 3.5 kg. The residue is dissolved in 25 liters of methanol, and 7.5 liters of 25% ammonia are added. The mixture is then heated at 60° C. for 6 hours and then concentrated in vacuo. The residue is dehydrated by removal of 3×7.5 liters of methyl isobutyl ketone by distillation, is taken up in 25 liters of tetrahydrofuran and cooled to −5° C., and 1522 g (13.28 mol) of mesyl chloride are added. 1341 g (13.28 mol) of triethylamine are then added over a period of 45 minutes and stirring is carried out for one hour; then 2300 g of 50% sodium hydroxide solution are added and stirring is carried out for one hour. 3 liters of water are then added to the reaction mixture, and the pH is adjusted to 7 using concentrated hydrochloric acid. The solid obtained after removal of the tetrahydrofuran in vacuo is stirred with 14 liters of water, filtered off with suction and washed with water. The crude product is stirred with 19 liters of methyl isobutyl ketone at 50° C. and filtered off with suction. Drying yields 1401 g (44%) of 3-benzyloxycarbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine.

reactant | sodium hydrogen carbonate | 19.04 mol, 1600 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 10.47 mol, 1823 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylamine | 8.47 mol, 856 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 8.47 mol, 1042 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | p-aminobenzonitrile | 8.47 mol, 1000 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | Cl | ClH
reactant | mesyl chloride | 13.28 mol, 1522 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 13.28 mol, 1341 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2300 g | [OH-].[Na+]
solvent | water | 9.3 liters | O | H2O
solvent | water | 3 liters | O | H2O
solvent | water | 10 liters | O | H2O
product | 3-benzyloxycarbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine | 1401 g, 44% | C(C1=CC=CC=C1)OC(=O)C1(C(N(CC1)C1=CC=C(C=C1)C#N)=O)N | C19H17N3O3
